US05258396
To an ice-cooled solution of 5-(2-fluoro-4-biphenylyl)-4-oxohexanoic acid (500 mg, 1.52 mmoles) in diethyl ether (10 ml) was added dropwise bromine (243 mg, 1.52 mmoles) and the resulting mixture was stirred at room temperature for 3.5 hours. The reaction mixture was concentrated under reduced pressure. A mixture of the afforded residue, N-methylthiourea (164 mg, 1.82 mmoles) and methanol was stirred at 50° C. for 2 hours and concentrated under reduced pressure. The residue was partitioned between ethyl acetate and aqueous sodium bicarbonate. The organic layer was washed with water, dried over sodium sulfate and concentrated under reduce pressure. Purification of the residue by medium pressure silica gel column chromatography gave the desired ethyl 2-(4-(1-(2-fluoro-4-biphenylyl)ethyl)-2-methylamino-5-thiazolyl)acetate (209 mg, 0.524 mmole, yield 35%) as a yellow oil.

reactant | 5-(2-fluoro-4-biphenylyl)-4-oxohexanoic acid | 1.52 mmoles, 500 mg | FC1=C(C=CC(=C1)C(C(CCC(=O)O)=O)C)C1=CC=CC=C1 | C18H17FO3
reactant | bromine | 1.52 mmoles, 243 mg | BrBr | Br2
reactant | N-methylthiourea | 1.82 mmoles, 164 mg | CNC(=S)N | C2H6N2S
reactant | methanol | CO | CH4O
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | ethyl 2-(4-(1-(2-fluoro-4-biphenylyl)ethyl)-2-methylamino-5-thiazolyl)acetate | 0.524 mmole, 209 mg, yield 35% | FC1=C(C=CC(=C1)C(C)C=1N=C(SC1CC(=O)OCC)NC)C1=CC=CC=C1 | C22H23FN2O2S
